data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,8642,"CCCCCCCC1C(C)([Si](CC)(CC)CC)C=[N+](C(C)(C)C)[Li-:1][OH+:2]1.O|((1, 2), 2)"
train,pmechdb_split_0,0,5195,"CC(C)[OH:1].CC(C)[O][Al-]([O]C(C)C)([O]C(C)C)[O+:2](C1C(=O)CC2(OCCO2)C2(C)CC3OC(C)(C)OC3CC12)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,31,"C[O:1]C.C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,7146,"C[C:1](=[O:2])[CH:3]=[CH2:4].[Li][Cu:5]([C]1=CC=CC=C1)[C:6]1=CC=CC=C1|((5, 6), 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9568,"CCOCC.C[NH+:1](C)[CH:2]1C(C2=CC=C(O)C=C2)C(=[O+][B-](F)(F)F)C2=C(C=C(O)C=C2O)[O:3]1.O=P(Cl)(Cl)Cl.[Cl-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5008,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCCC[NH+:2](C1(O)CCCC2=C(Br)C=NC=C21)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4230,"Br[B:1](Br)Br.CCCC1=CC=CC(C)=C1[O:2]C|(2, 1)"
train,pmechdb_split_0,0,5715,"C1CCOC1.COC1=C(Br)C([CH:1]=[O+:2]CCCO)=C(OC)C=C1.[Cl-].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8569,"C1CC[NH:1]C1.CC1CCCC[C:2]1=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7741,"O=C(C1=CC=CC=C1)[CH2:1][Br:2].OCC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5918,"C1=CC=NC=C1.CC1=CN(C2CC(O[P:1](OCCC#N)OC3CC(N4C=C(C)C(=O)NC4=O)OC3COC(C3=CC=CC=C3)(C3=CC=CC=C3)C3=CC=CC=C3)C(C)O2)C(=O)NC1=O.O.[I:2][I:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,8943,"CO[C:1]1=[CH:2]OC=C1.C[C+:3]=O|((1, 2), 3)"
train,pmechdb_split_0,0,8978,"COC1=CC=CC(CC[CH:1]=[C:2](CCC2(C)C(=O)CC[C:3]2=[O:4])[O-:5])=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6730,"CCC=[O:1].CCC[CH2][Sn]([CH2]CCC)([CH2]CCC)[CH]1C=CCC=C1.F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,8508,"CC1CCCC(C)(C)[C+:1]1C.[Br-:2]|(2, 1)"
train,pmechdb_split_0,0,757,"CC(CO)(C[O:1][CH:2](C1=CC=CC=C1)[OH2+:3])C(=O)O.CC1=CC=C(S(=O)(=O)[O-])C=C1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1388,"C1=CC=[C:1]2C(=C1)C1C[CH+:2][CH:3]2C12CC2.O|((3, 1), 2)"
train,pmechdb_split_0,0,2988,"C[C:1](C)([O:2][B-](F)(F)F)[OH2+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8860,"O=S(=O)(O)[C:1]1([H:2])C=C[C+:3](O)[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
train,pmechdb_split_0,0,4304,"O=C(CC(=O)[O:1][H:2])CC1=CC=CC=C1.[NH2-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,9361,"CC(=O)O[C:1](C)=[O:2].CC[NH+](CC)CC.COC1=C(O)C=C(C=O)C=C1.COC1=CC(CC(=O)[O-:3])=CC(OC)=C1OC|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9567,"C=C([O][Li-:1][NH+:2](C(C)C)C(C)C)C(C)CC(C)CN=[N+]=[N-]|((1, 2), 2)"
train,pmechdb_split_0,0,7403,"C=CC(C)C(CO[Si](C(C)C)(C(C)C)C(C)C)[O:1][B-]1(O)OC(C(=O)OC(C)C)C(C(=O)OC(C)C)O1.[H:2][OH:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,23,"C[C:1](C)([Cl:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,775,"CC(=O)[O:1][H:2].CC(C)N(CC1=CC=CC=C1)C(=O)C1NC2=C(CC3(O)C4CC5=CC=CC=C5C3(CC[NH+]4C)C2)C1(C)[OH:3].O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7780,"COC1=C(N=N[OH:1])C2=C(C=C1)C1CCC3(C)C(=O)CCC3C1CC2.F[B-](F)(F)F.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,106,"CC(C)(C)[O-:1].CC(C)C1=CC=CC(C(C)C)=C1N1C=C[N+](C2=C(C(C)C)C=CC=C2C(C)C)=C1C(=O)CC(C1=CC=CC=C1)C(C1=CC=CC=C1)(C(F)(F)F)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8022,"COC(=O)C1C2CCC3(C(=O)OC)CCCC2(C[C:1]1([O-:2])[O:3]C)C3=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,9242,"C1=CC=NC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.OC1CCCC[C:1]1=[OH+:2].OCC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1265,"CC[N:1](CC)CC.[O-]C1(CC2CCCCC2)C2=CC(C3=CC=CC=C3)=NN2CC[NH+:2]1[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8857,"CCCCN[C:1](CC)([O-:2])[O:3]CC|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,171,"C[S:1][CH:2]=[NH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2979,"C(#CC1=C([N:1]=[N:2][OH2+:3])C=CC=C1)C1=CC=CC=C1.CC#N.CC(C)(C)[O+]=[B-](F)F.[F-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,256,"CCCC(C)=[O+][B:1](F)F.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,5899,"COP(=O)(OC)[CH2:1][C:2](C)(C)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1491,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC(O)(CCC(C)C1CCC2C3C(O)CC4CC(O)CCC4(C)C3CCC12C)[OH:1].C[OH+:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5032,"CS(=O)(=O)[O:1][CH3:2].C[SH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,333,"CCC#N.CCO[C:1](=[O:2])[CH:3](C)[C:4](=O)[O-:5].[Na+]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,9313,"CC(C)(C)[O-:1].C[CH:2]([H:3])[CH2:4][Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,9220,"CC(=O)OI1(OC(C)=O)(OC(C)=[O:1])OC(=O)C2=C1C=CC=C2.CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9229,"O=S(=O)(O)[O-:1].O=[N+]([O-])[C:2]1([H:3])OC=C(Br)[CH+:4]1|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,1721,"CC1(C)OC(C(C=O)OCC2=CC=CC=C2)C(C(OCC2=CC=CC=C2)[CH:1]=[O:2])O1.CO.O=C([O-])C(F)(F)F.[H:3][BH3-:4].[Na+]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6831,"CCCC1=CC=C([CH:1]([C:2](C)([C:3]2=CC=CC(CCC)=C2)[OH:4])[OH2+:5])C=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(4, 2);((2, 3), 1);((1, 5), 5)"
